US09212190B2
To a 3-necked round-bottom flask containing a solution of N,N-dimethyl-4-[8-thia-4,6,12-triazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-yloxy]cyclohexan-1-amine trifluoroacetate (300 mg, 1.00 equiv, 30% purity) in THF (50 mL) was added triethylamine (0.4 mL). The solution was stirred at 0° C. for 10 min under nitrogen. Then triphosgene (300 mg, 1.0 mmol) in 10 mL of DCM was added via syringe at 0° C. and stirred for 2 h at room temperature. Then methanamine-THF (2 M, 1.8 mL) was added at 0° C. and the resulting solution was stirred overnight at room temperature. The reaction was quenched by the addition of methanol and concentrated under vacuum. The residue was pre-purified by a silica gel column with DCM/MeOH (30:1-10:1) to give the crude product, which was purified by preparative HPLC under the following conditions (Waters): Column: XBridge Shield RP18 OBD Column, 5 μm, 19*150 mm; mobile phase, water with 0.05% NH4HCO3 and CH3CN (9% CH3CN up to 21% in 12 min, up to 95% in 2 min, down to 9% in 2 min); flow rate: 20 mL/min; UV detection at 254/220 nm. After concentration in vacuo and lyophilization overnight, the corresponding 3-[[4-(dimethylamino)cyclohexyl]oxy]-N-methyl-8-thia-4,6,12-triazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraene-12-carboxamide (30 mg) was obtained as a white solid. MS (ES): m/z 390 (M+H)+ and 412 (M+Na)+. 1H NMR (300 MHz, CD3OD): δ 8.50 (1H, s), 5.30-5.21 (1H, m), 4.78 (2H, s), 3.75 (2H, t), 2.95 (2H, t), 2.78 (3H, s), 2.50-2.30 (9H, m), 2.07 (2H, d), 1.8-1.62 (2H, m), 1.60-1.50 (2H, m).

reactant | N,N-dimethyl-4-[8-thia-4,6,12-triazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-yloxy]cyclohexan-1-amine trifluoroacetate | 300 mg, 1.00 equiv | FC(C(=O)O)(F)F.CN(C1CCC(CC1)OC=1C=2C=3CNCCC3SC2N=CN1)C
reactant | triethylamine | 0.4 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 1.0 mmol, 300 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | methanamine THF | 2 M, 1.8 mL | CN.C1CCOC1
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-[[4-(dimethylamino)cyclohexyl]oxy]-N-methyl-8-thia-4,6,12-triazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraene-12-carboxamide | 30 mg | CN(C1CCC(CC1)OC=1C=2C=3CN(CCC3SC2N=CN1)C(=O)NC)C | C19H27N5O2S
